US07176242B2
3-{[Methyl(propyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoic acid
To a −70° C. stirred solution of oxazole (330 mg, 4.8 mmol) in tetrahydrofuran (4 mL) is added n-butyllithium (1.6 M in hexanes, 3.3 mL, 5.3 mmol). After 30 min, zinc chloride (1 M in diethyl ether, 14.5 mL, 14.5 mmol) is added and the reaction mixture is warmed to 0° C. for 1 h. To this mixture is added a solution of methyl 3-iodo-5-{[methyl(propyl)amino]carbonyl}benzoate (1.6 g, 4.5 mmol) in anhydrous tetrahydrofuran (3 mL) followed by palladium(0) tetrakis(triphenylphosphine) (221 mg, 0.19 mmol). The reaction mixture is heated at reflux for 2 h. The reaction mixture is cooled, diluted with ethyl acetate, washed with water, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 60% ethyl acetate/hexane) provides a solid. The solid is redissolved in 1:1:1 tetrahydrofuran/methanol/water (9 mL), and lithium hydroxide monohydrate (311 mg, 7.4 mmol) is added and stirred 2 h at room temperature. The reaction is diluted in chloroform and washed with 1N hydrochloric acid (aq), water, and brine, dried (sodium sulfate), filtered and concentrated under reduced pressure to give the title compound. ESI MS m/z 287.3 [M−H]−.

reactant | oxazole | 4.8 mmol, 330 mg | O1C=NC=C1 | C3H3NO
reactant | n-butyllithium | 5.3 mmol, 1.6 M, 3.3 mL | C(CCC)[Li]
reactant | methyl 3-iodo-5-{[methyl(propyl)amino]carbonyl}benzoate | 4.5 mmol, 1.6 g | IC=1C=C(C(=O)OC)C=C(C1)C(=O)N(CCC)C | C13H16INO3
reactant | lithium hydroxide monohydrate | 7.4 mmol, 311 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran methanol water | 9 mL | O1CCCC1.CO.O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | zinc chloride | 14.5 mmol, 1 M, 14.5 mL | [Cl-].[Zn+2].[Cl-]
catalyst | palladium(0) tetrakis(triphenylphosphine) | 0.19 mmol, 221 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-{[Methyl(propyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoic acid | CN(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1)CCC | C15H16N2O4
